US20010053785A1
(2R)-2-[4′-(2-Benzyl-benzo[b]thiophene-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3,5-dibromo-biphenyl-4-ol, and (S)-(−)-3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h, and was obtained as a white solid, mp 87-89° C.; MS m/e 696 (M+);

reactant | 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3,5-dibromo-biphenyl-4-ol | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C(=C2)Br)O)Br | C27H18Br2OS
reactant | (S)-(−)-3-phenyllactic acid methyl ester | COC([C@@H](O)CC1=CC=CC=C1)=O | C10H12O3
product | (2R)-2-[4′-(2-Benzyl-benzo[b]thiophene-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C(=C2)Br)O[C@@H](C(=O)O)CC2=CC=CC=C2)Br | C36H26Br2O3S
